* .include ../../../tech_files/TSMC_180nm.txt
* .include ../../inv/cmos/inv_cmos.cir
* .include ../../nand/cmos/nand_cmos.cir
* .include ../../nand/cmos/nand_3_cmos.cir
* .include ../../nand/cmos/nand_4_cmos.cir
* .include ../../nand/cmos/nand_5_cmos.cir
* .include ../../nor/cmos/nor_cmos.cir
* .include ../../nor/cmos/nor_3_cmos.cir
* .include ../../nor/cmos/nor_4_cmos.cir
* .include ../../nor/cmos/nor_5_cmos.cir

* .param SUPPLY=1.8
* .param LAMBDA=0.09u
* .param width_N={20*LAMBDA}
* .param width_P={2.5*width_N}
* .param length={2*LAMBDA}
* .global gnd vdd

* VDD vdd gnd SUPPLY
* vinP3 P3 gnd PULSE(0 SUPPLY 640ns 1ps 1ps 640ns 1280ns)
* vinG3 G3 gnd PULSE(0 SUPPLY 320ns 1ps 1ps 320ns  640ns)
* vinP2 P2 gnd PULSE(0 SUPPLY 160ns 1ps 1ps 160ns  320ns)
* vinG2 G2 gnd PULSE(0 SUPPLY  80ns 1ps 1ps  80ns  160ns)
* vinP1 P1 gnd PULSE(0 SUPPLY  40ns 1ps 1ps  40ns   80ns)
* vinG1 G1 gnd PULSE(0 SUPPLY  20ns 1ps 1ps  20ns   40ns)
* vinP0 P0 gnd PULSE(0 SUPPLY  10ns 1ps 1ps  10ns   20ns)
* vinG0 G0 gnd PULSE(0 SUPPLY   5ns 1ps 1ps   5ns   10ns)
* VinC0 C0 gnd PULSE(0 SUPPLY 2.5ns 1ps 1ps 2.5ns    5ns)

.subckt cla_gen_cmos C0 G0 P0 P1 G1 P2 G2 P3 G3 C1 C2 C3 C4
    X5nand1  P3 P2 P1 P0 C0 ai nand_5_cmos
    X5and1   ai a inv_cmos
    X4nand2  P3 P2 P1 G0    bi nand_4_cmos
    X4and2   bi b inv_cmos
    X3nand3  P3 P2 G1       ci nand_3_cmos
    X3and3   ci c inv_cmos
    X2nand4  P3 G2          di nand_cmos
    X2and4   di d inv_cmos
    X4nand5  P2 P1 P0 C0    ei nand_4_cmos
    X4and5   ei e inv_cmos
    X3nand6  P2 P1 G0       fi nand_3_cmos
    X3and6   fi f inv_cmos
    X2nand7  P2 G1          gi nand_cmos
    X2and7   gi g inv_cmos
    X3nand8  P1 P0 C0       hi nand_3_cmos
    X3and8   hi h inv_cmos
    X2nand9  P1 G0          ii nand_cmos
    X2and9   ii i inv_cmos
    X2nand10 P0 C0         ji nand_cmos
    X2and10  ji j inv_cmos
    
    X5nor1 a b c d G3 C4 nor_5_cmos
    X4nor2 e f g   G2 C3 nor_4_cmos
    X3nor3 h i     G1 C2 nor_3_cmos
    X2nor4 j       G0 C1 nor_cmos
.ends

* X1 C0 G0 P0 P1 G1 P2 G2 P3 G3 C1 C2 C3 C4 cla_gen_cmos

* .tran 1n 1280n 

* .measure tran t_in WHEN v(C2)=0.5*SUPPLY CROSS=2
* .measure tran t_out WHEN v(C3)=0.5*SUPPLY CROSS=1
* .measure tran t_delay PARAM='t_out-t_in'

* .control
*     set hcopypscolor = 1
*     set color0=beige
*     set color1=black
*     set color2=blue
*     set color3=darkgreen
*     set color4=darkred
*     set color5=darkviolet
*     set color6=darkorange

*     run
*     plot v(C0)+16 v(G0)+14 v(P0)+12 v(G1)+10 v(P1)+8 v(G2)+6 v(P2)+4 v(G3)+2 v(P3) v(C1)-2 v(C2)-4 v(C3)-6 v(C4)-8
* .endc