.include ../../../tech_files/TSMC_180nm.txt
.include ../../inv/cmos/inv_cmos.cir
.include ../../nand/cmos/nand_cmos.cir
.include ../../nand/cmos/nand_3_cmos.cir
.include ../../nand/cmos/nand_4_cmos.cir
.include ../../nand/cmos/nand_5_cmos.cir
.include ../../nor/cmos/nor_cmos.cir
.include ../../nor/cmos/nor_3_cmos.cir
.include ../../nor/cmos/nor_4_cmos.cir
.include ../../nor/cmos/nor_5_cmos.cir

.param SUPPLY=1.8
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P={2.5*width_N}
.param length={2*LAMBDA}
.global gnd vdd

VDD vdd gnd SUPPLY
vinP3 P3 gnd PULSE(0 SUPPLY 640ns 1ps 1ps 640ns 1280ns)
vinG3 G3 gnd PULSE(0 SUPPLY 320ns 1ps 1ps 320ns  640ns)
vinP2 P2 gnd PULSE(0 SUPPLY 160ns 1ps 1ps 160ns  320ns)
vinG2 G2 gnd PULSE(0 SUPPLY  80ns 1ps 1ps  80ns  160ns)
vinP1 P1 gnd PULSE(0 SUPPLY  40ns 1ps 1ps  40ns   80ns)
vinG1 G1 gnd PULSE(0 SUPPLY  20ns 1ps 1ps  20ns   40ns)
vinP0 P0 gnd PULSE(0 SUPPLY  10ns 1ps 1ps  10ns   20ns)
vinG0 G0 gnd PULSE(0 SUPPLY   5ns 1ps 1ps   5ns   10ns)
VinC0 C0 gnd PULSE(0 SUPPLY 2.5ns 1ps 1ps 2.5ns    5ns)

.subckt cla_gen_cmos C0 G0 P0 P1 G1 P2 G2 P3 G3 C1 C2 C3 C4
    X5nand1  P3 P2 P1 P0 C0 ai nand_5_cmos
    X5and1   ai a inv_cmos
    X4nand2  P3 P2 P1 G0    bi nand_4_cmos
    X4and2   bi b inv_cmos
    X3nand3  P3 P2 G1       ci nand_3_cmos
    X3and3   ci c inv_cmos
    X2nand4  P3 G2          di nand_cmos
    X2and4   di d inv_cmos
    X4nand5  P2 P1 P0 C0    ei nand_4_cmos
    X4and5   ei e inv_cmos
    X3nand6  P2 P1 G0       fi nand_3_cmos
    X3and6   fi f inv_cmos
    X2nand7  P2 G1          gi nand_cmos
    X2and7   gi g inv_cmos
    X3nand8  P1 P0 C0       hi nand_3_cmos
    X3and8   hi h inv_cmos
    X2nand9  P1 G0          ii nand_cmos
    X2and9   ii i inv_cmos
    X2nand10 P0 C0          ji nand_cmos
    X2and10  ji j inv_cmos
    
    X5nor1 a b c d G3 k nor_5_cmos
    X5or1 k C4 inv_cmos
    X4nor2 e f g   G2 l nor_4_cmos
    X4or2 l C3 inv_cmos
    X3nor3 h i     G1 m nor_3_cmos
    X3or3 m C2 inv_cmos
    X2nor4 j       G0 n nor_cmos
    X2or4 n C1 inv_cmos
.ends

X1 C0 G0 P0 P1 G1 P2 G2 P3 G3 C1 C2 C3 C4 cla_gen_cmos

.tran 1n 1280n 

.measure tran t_in WHEN v(C2)=0.5*SUPPLY CROSS=2
.measure tran t_out WHEN v(C3)=0.5*SUPPLY CROSS=1
.measure tran t_delay PARAM='t_out-t_in'

.control
    set hcopypscolor = 1
    set color0=beige
    set color1=black
    set color2=blue
    set color3=darkgreen
    set color4=darkred
    set color5=darkviolet
    set color6=darkorange

    run
    plot v(C0)+16 v(G0)+14 v(P0)+12 v(G1)+10 v(P1)+8 v(G2)+6 v(P2)+4 v(G3)+2 v(P3) v(C1)-2 v(C2)-4 v(C3)-6 v(C4)-8
.endc